US04624908
Trans-2-Diazodecalin-1,3-dione
A solution of 1.06 gm (6.38 nmole) of decalin-1,3-dione in 3 mL of dry ethanol was cooled in an ice bath and treated with 0.89 mL of (6.4 mmole) triethylamine followed by 1.128 gm (6.50 mmole) of p-toluenesulfonyl azide. The mixture was stirred in the ice bath for 4 hours, then concentrated in vacuo (less than 40° C.). The residue was dissolved in 45 mL of ether and the ether washed with a solution of 0.42 gm KOH in 30 mL of water, dried (Na2SO4), filtered, and concentrated to 1.22 gm of an orange oil. This was chromatographed on 40-micron silica giving 0.45 gm of trans-2-diazodecalin-1,3-dione, mp 81°-3° C.

reactant | decalin-1,3-dione | 6.38 nmole, 1.06 gm | C1(CC(CC2CCCCC12)=O)=O | C10H14O2
reactant | triethylamine | 6.4 mmole, 0.89 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl azide | 6.50 mmole, 1.128 gm | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | Trans-2-Diazodecalin-1,3-dione | [N+](=[N-])=C1C([C@@H]2CCCC[C@H]2CC1=O)=O | C10H12N2O2
